US06087357
To an ice-cooled suspension of lithium aluminum hydride (1.2 g) in tetrahydrofuran (91 ml) was added (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine-2,5-dione (4.95 g) by small portions. The mixture was stirred at the same temperature for 15 minutes and at room temperature for one hour. After removal of solvent by evaporation, aqueous sodium hydrogen carbonate solution was added to the resulting residue. The mixture was warmed at near 50° C. for several minutes and the resulting precipitates were collected by filtration, washed with water and dried in vacuo to give (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine (4.60 g) as an oil.

reactant | lithium aluminum hydride | 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine-2,5-dione | 4.95 g | C(C1=CC=CC=C1)N1C([C@H](NC(C1)=O)CC1=CC=C(C=C1)F)=O | C18H17FN2O2
solvent | tetrahydrofuran | 91 ml | O1CCCC1 | C4H8O
product | (3R)-1-benzyl-3-(4-fluorobenzyl)piperazine | 4.60 g | C(C1=CC=CC=C1)N1C[C@H](NCC1)CC1=CC=C(C=C1)F | C18H21FN2
